US08198311B2
To a solution of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol (0.41 mmol) in 20 mL of CH2Cl2 at 0° C. was added 1M TiCl4 in CH2Cl2 (0.5 mmol) all at once. After 30 min, (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane (0.24 mL, 1.2 mmol) was added and the reaction was warmed to rt and stirred overnight. The reaction was quenched with water and extracted with CH2Cl2. The CH2Cl2 extracts were dried over MgSO4, filtered, and concentrated by rotary evaporator to give methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoate. MS found: (M+H)+=383.

reactant | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol | 0.41 mmol | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(C)C)O | C18H19FN2O
reactant | (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane | 1.2 mmol, 0.24 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1M | Cl[Ti](Cl)(Cl)Cl
solvent | CH2Cl2 | 0.5 mmol | C(Cl)Cl | CH2Cl2
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoate | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)CC(C)C | C23H27FN2O2
